US05075046
Vicinal Dipropionyl Stearic Acid Isooctyl Ester
1 Mol epoxidized oleic acid isooctyl ester (epoxide oxygen content 3.82%), 2 mol propionic anhydride, 10 mol % propionic acid and 1 mol % concentrated sulfuric acid were reacted for 6 hours at 150° C. as described in Example 2. A product having the following analysis was obtained after the removal of volatile fractions and filtration: epoxide oxygen content 0.20%, OH value 0.6, acid value 1.2, saponification value 240.8, iodine value 8.6.

reactant | oleic acid isooctyl ester | 1 Mol | C(CCCCC(C)C)OC(CCCCCCC\C=C/CCCCCCCC)=O | C26H50O2
reactant | propionic anhydride | 2 mol | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Dipropionyl Stearic Acid Isooctyl Ester | C(CCCCC(C)C)OC(C(CCCCCCCCCCCCCCCC)(C(CC)=O)C(CC)=O)=O | C32H60O4
